Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
overdose

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History Obtained From:  Medical records, sign out

___ male with a history of schizophrenia, depression,
anxiety, presenting after an intentional overdose. 

Patient took 30 tablets of hydroxyzine 25mg (750mg) and
propranolol ___ tabs, unknown dose), clonazepam or Ativan ___
tablets, but unsure of which one) at 1pm (2 hours and 20 minutes
PTA).

Reports that he took no other substances including alcohol or
recreational drugs or pharmaceuticals or chemicals. Patient 
began
to feel regretful of this decision afterwards, and so told his
dad about it who then called ___.

In the ED, felt lightheaded and felt a rumbling sensation in his
stomach, otherwise no acute complaints. Had intermittent
hypotension to 84/62, got 3L IVF. BP prior to transfer 105 / 47.

Asymptomatic upon arrival to the floor. States that while he has
been cutting himself in the past, this was his first real 
suicide
attempt. Happened in the setting of being concerned that he 
would
not be able to have a good career. Did not really have a plan 
and
did not really think that it would work. Amenable to inpatient
psych treatment. 

No fevers, no chills, no headache, no visual change, no sore
throat, no chest pain, no difficulty breathing, no palpitations,
no cough, no nausea, no vomiting, no abdominal pain, no 
diarrhea,
no hematochezia, no melena, no dysuria, no arthralgias, no rash,
no back pain.

10 point ROS negative except as above.

From Psychiatry:
___ yr old male with a h/o schizophrenia, 4 prior psychiatric
hospitalizations, prior self-cutting who reports several weeks 
of
depressed mood, difficulty finding employment and acute onset
thoughts of "wanting to die" followed by overingestion of 30
tablets of hydroxyzine (25mg), ___ tablets of propranolol and 
___
tablets of a ativan. He subsequently proceeded to call ___ and
was taken to the ED. Patient reports that he no longer has acute
thoughts of self harm and notes that he felt overwhelmed by his
inability to get a job. He denies auditory hallucinations but
when specifically asked about past delusions such as physics
related themes, he goes on to discuss that "we all emit 
different
frequencies." He reports that physically he feels well. Reports
triggered panic attacks. 
 
Past Medical History:
Past Psychiatric Hx:
schizophrenia, depression, anxiety
Hospitalizations: 4 prior hospitalizations that last of which 
was
in ___
Current treaters and treatment: Dr. ___ at the ___;
also has a therapist
Medication and ECT trials: past vistaril
Self-injury: past cutting, this is his first suicide attempt
Harm to others:denies
Access to weapons:denies

PMH:
denies major medical problems

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
grandfather with schizophrenia, aunt and mother with BPAD
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  
24 HR Data (last updated ___ @ 200)
    Temp: 98.2 (Tm 98.2), BP: 115/73, HR: 79, RR: 17, O2 sat:
96%, O2 delivery: Ra  

General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  

Neurological:  
 *station and gait:  narrow based gait
 *tone and strength: antigravity strength in arms and legs
 cranial nerves: EOMI intact
 abnormal movements: none appreciated
 frontal release: not tested

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention (digit span, MOYB): able to name days of the week
backwards
 *Orientation: intact to month, hospital name
 ___ function (go-no go, Luria, trails, FAS): not tested
 *Memory:   good recall of recent events
 *Fund of knowledge:  grossly intact
 Calculations:  not tested
 Abstraction: not tested
 Visuospatial: not tested
 *Speech: monotone
 *Language: expressive and receptive language grossly intact
 
Mental Status:
 *Appearance:  in hospital gown
 Behavior: cooperative
 *Mood and Affect: I've been down; constricted affect
 *Thought process / *associations:  linear
 *Thought Content: related to recent overdose
 *Judgment and Insight:  poor, poor

DISCHARGE EXAM:
===============
VITALS: 24 HR Data (last updated ___ @ 1122)
    Temp: 97.7 (Tm 98.5), BP: 120/77 (100-120/57-77), HR: 100
(57-100), RR: 16 (___), O2 sat: 98% (96-98), O2 delivery: RA  

GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, MMM, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB, normal work of breathing
GI: NT/ND, BS+
EXT: Warm and well perfused, non-edematous
NEURO: CNII-XII grossly intact, no focal neurologic deficits
PSYCH: depressed mood, flat affect, denies SI/HI
 
Pertinent Results:
ADMISSION LABS:
___ 03:20PM BLOOD WBC-10.9* RBC-4.78 Hgb-13.7 Hct-41.8 
MCV-87 MCH-28.7 MCHC-32.8 RDW-13.0 RDWSD-41.3 Plt ___
___ 07:50AM BLOOD WBC-7.6 RBC-4.37* Hgb-12.6* Hct-38.5* 
MCV-88 MCH-28.8 MCHC-32.7 RDW-13.2 RDWSD-42.5 Plt ___
___ 03:20PM BLOOD Neuts-72.2* ___ Monos-5.6 
Eos-0.9* Baso-0.5 Im ___ AbsNeut-7.91* AbsLymp-2.24 
AbsMono-0.61 AbsEos-0.10 AbsBaso-0.05
___ 07:50AM BLOOD Neuts-54.9 ___ Monos-9.2 Eos-2.4 
Baso-0.7 Im ___ AbsNeut-4.19 AbsLymp-2.47 AbsMono-0.70 
AbsEos-0.18 AbsBaso-0.05
___ 03:20PM BLOOD ___ PTT-27.5 ___
___ 03:20PM BLOOD Plt ___
___ 07:50AM BLOOD ___ PTT-26.8 ___
___ 07:50AM BLOOD Plt ___
___ 03:20PM BLOOD Glucose-90 UreaN-12 Creat-0.8 Na-142 
K-4.4 Cl-106 HCO3-23 AnGap-13
___ 07:50AM BLOOD Glucose-93 UreaN-13 Creat-0.8 Na-146 
K-4.3 Cl-110* HCO3-27 AnGap-9*
___ 03:20PM BLOOD ALT-13 AST-24 AlkPhos-79 TotBili-0.2
___ 07:50AM BLOOD ALT-11 AST-14 AlkPhos-68 TotBili-<0.2
___ 03:20PM BLOOD Lipase-22
___ 03:20PM BLOOD Albumin-4.6
___ 07:50AM BLOOD Calcium-8.8 Phos-4.5 Mg-2.2
___ 03:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:26PM BLOOD pO2-141* pCO2-33* pH-7.48* calTCO2-25 
Base XS-2
___ 03:26PM BLOOD Lactate-1.1
___ 04:38PM URINE Color-Straw Appear-Clear Sp ___
___ 04:38PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 04:38PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
None

MICROBIOLOGY:
___ 4:38 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH schizophrenia, 
depression, anxiety, 4 prior psychiatric hospitalizations, prior 
self-cutting, who presented after an intentional overdose. 
Patient took 30 tablets of hydroxyzine 25mg (750mg) and 
propranolol ___ tabs, 10mg), clonazepam and Ativan ___ of 
each). Initially with some nausea and GI upset, however was 
otherwise asymptomatic. Was evaluated by psychiatry had a 
___ placed, and was subsequently transferred to ___ 
___ for inpatient psychiatry admission.

ACTIVE PROBLEMS:
================
# Intentional overdose
# Suicide attempt
# Depression
# Anxiety
Reported several weeks of depressed mood, difficulty finding 
employment and acute onset thoughts of "wanting to die" followed 
by ingestion of 30 tablets of hydroxyzine (25mg), ___ tablets of 
propranolol (dosage unknown) and ___ tablets of Ativan (dosage 
unknown). He subsequently proceeded to call ___ and was taken to 
the ED. Upon arrival, reported that he no longer had acute 
thoughts of self harm and notes that he felt overwhelmed by his 
inability to get a job. Found to have mild hypotension that 
resolved with IVF administration. QTc ~400msec. Home propranolol 
(indication: restlessness) was held, though HRs were never 
bradycardic while in-house. Transferred to inpatient psychiatric 
facility ___ on ___ and 1:1 sitter.

CHRONIC ISSUES:
===============
# Schizophrenia - Currently not actively psychotic. Follows with 
psychiatry at ___. Admitted there 
earlier this year for hallucinations. Continued on Olanzapine 20 
mg qd.

TRANSITIONAL ISSUES:
====================
[ ] NEW/CHANGED MEDICATIONS
- Home propranolol held given it was among the agents he tried 
to overdose on ___ tabs, 10mg)

[ ] ___, 1:1 sitter 

GENERAL CARE:
=============  
#CODE: FULL (presumed)
#CONTACT: ___ 
          Relationship: FATHER 
          Phone: ___ 
          ___ 
          Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 20 mg PO DAILY 
2. LORazepam 1 mg PO BID:PRN Anxiety 
3. Propranolol 10 mg PO BID:PRN Anxiety 

 
Discharge Medications:
1.  LORazepam 1 mg PO BID:PRN Anxiety  
2.  OLANZapine 20 mg PO DAILY  
3. HELD- Propranolol 10 mg PO BID:PRN Anxiety  This medication 
was held. Do not restart Propranolol until you discuss with your 
doctor.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Intentional overdose
Suicide attempt
Depression
Anxiety

Secondary diagnoses:
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
-You had an overdose of medications.
 
What was done for you in the hospital:
-We monitored you and made sure you weren't in danger. 
-You were also evaluated by the psychiatrists and transferred to 
___
 
What you should do after you leave the hospital:

- Please take your medications as detailed in the discharge 
papers. 

- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.

- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___